US05965559
Using an analogous procedure to that described in Example 2, ethyl 1-benzylpiperazine-2-carboxylate was reacted with 2-naphthylsulphonyl chloride to give ethyl 1-benzyl-4-(2-naphthylsulphonyl)piperazine-2-carboxylate in 93% yield.

reactant | ethyl 1-benzylpiperazine-2-carboxylate | C(C1=CC=CC=C1)N1C(CNCC1)C(=O)OCC | C14H20N2O2
reactant | 2-naphthylsulphonyl chloride | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | ethyl 1-benzyl-4-(2-naphthylsulphonyl)piperazine-2-carboxylate | 93% yield | C(C1=CC=CC=C1)N1C(CN(CC1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C(=O)OCC | C24H26N2O4S
